US04493832
To a solution of (rac)-1-O-dodecyl-2-O-methoxycarbonyl-3-O-trityl-glycerol (10.2 g) in methylene chloride (100 ml) was added trifluoroacetic acid (10 ml) in one portion. After the yellow solution was stirred for 8 minutes at ambient temperature, ice water (100 ml) was added. The organic layer was washed with aqueous sodium bicarbonate solution and water, dried, and evaporated under reduced pressure. The residue was treated with n-hexane (50 ml) to remove triphenylmethanol as a white crystal. The filtrate was evaporated to give 6.22 g of (rac)-1-O-dodecyl-2-O-methoxycarbonyl-glycerol as a colorless oil (unstable oil).

reactant | (rac)-1-O-dodecyl-2-O-methoxycarbonyl-3-O-trityl-glycerol | 10.2 g | C(CCCCCCCCCCC)OCC(OC(=O)OC)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H48O5
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (rac)-1-O-dodecyl-2-O-methoxycarbonyl-glycerol | 6.22 g | C(CCCCCCCCCCC)OCC(OC(=O)OC)CO | C17H34O5
